US07196104B2
Preparation DD: (6-Bromo-pyridin-2-ylmethyl)-isopropyl-amine
To a stirred solution of 6-bromo-pyridine-2-carbaldehyde (1.06 g, 5.73 mmol) in dry CH2Cl2 (30 mL) was added isopropylamine (0.51 mL, 6.02 mmol). The mixture was stirred at RT and under N2 for 30 min followed by the addition of NaBH(OAc)3 (2.42 g, 11.46 mmol) and HOAC (1.3 mL, 22.92 mmol). The resulting cloudy light-yellow solution was stirred at RT and under N2 for 15 h. A 10% solution of Na2CO3 (50 mL) was added to the mixture and stirred for 30 min. The organic phase was separated, washed with H2O, brine, dried over MgSO4 and concentrated to afford a light yellow-oil without further purification. MS m/z: 229.1 (M+H). Calc'd for C9H13BrN2: 228.03.

reactant | 6-bromo-pyridine-2-carbaldehyde | 5.73 mmol, 1.06 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | isopropylamine | 6.02 mmol, 0.51 mL | C(C)(C)N | C3H9N
reactant | NaBH(OAc)3 | 11.46 mmol, 2.42 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (6-Bromo-pyridin-2-ylmethyl)-isopropyl-amine | BrC1=CC=CC(=N1)CNC(C)C | C9H13BrN2
